US04059447
74 g of t-butylalcohol, 79 g of pyridine and 250 ml of anhydrous ether were heated to boiling and 146 g of dichloroacetyl chloride were added dropwise to the reaction mixture at such a rate that the mixture continued to boil without further supply of heat. When all the dichloroacetyl chloride has been added, boiling was continued for 3 hours. Water was then added to the reaction mixture and the ethereal phase was separated off. The resulting reaction solution was processed in the usual manner to yield 140 g of α, α-dichloroacetic acid-t-butyl ester.

reactant | t-butylalcohol | 74 g | C(C)(C)(C)O | C4H10O
reactant | pyridine | 79 g | N1=CC=CC=C1 | C5H5N
reactant | ether | 250 ml | CCOCC | C4H10O
reactant | dichloroacetyl chloride | 146 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | Water | O | H2O
product | α, α-dichloroacetic acid-t-butyl ester | 140 g | C(C)(C)(C)OC(C(Cl)Cl)=O | C6H10Cl2O2
